US06528504B2
(S)-3-Hydroxy-1-(4-methoxyphenethyl)pyrrolidine (541 mg, 2.45 mmol) was dissolved in dichloromethane (15 ml). Triethylamine (272 mg, 2.69 mmol) and methanesulfonyl chloride (295 mg, 2.58 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred at 0° C. for 1 hour. The reaction liquid was distributed in dichloromethane and water. The organic layer was dried, and the solvent was evaporated under reduce pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with a solvent mixture of dichloromethane and methanol (50:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (S)-3-methanesulfonyloxy-1-(4-methoxyphenethyl)pyrrolidine in the form of a white solid (734 mg, 100%).

reactant | (S)-3-Hydroxy-1-(4-methoxyphenethyl)pyrrolidine | 2.45 mmol, 541 mg | O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)OC | C13H19NO2
reactant | Triethylamine | 2.69 mmol, 272 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.58 mmol, 295 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-3-methanesulfonyloxy-1-(4-methoxyphenethyl)pyrrolidine | CS(=O)(=O)O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)OC | C14H21NO4S
